US08486939B2
A mixture of 4-(2,6-dichloro-5-nitro-4-pyrimidinyl)morpholine (U.S. Pat. Appl. Publ. No. 2009/0181963, the disclosure of which is incorporated herein by reference in its entirety) (1.89 g, 3.6 mmol) and 3-aminopyridine (0.68 g, 7.2 mmol) in THF at −70° C. was treated with 7.2 mL of LiHMDS (1M solution in THF, 2 eq.) and the mixture was stirred at that temperature for 1.5 hrs, and then allowed to warm to room temperature. The solvent was removed and the crude product was extracted with 0.5 M HCl. After filtration, the aqueous solution was made basic with sat. Na2CO3, to give a precipitate, which was collected by filtration, and dried, to give 1.12 g (52% yield) of 2-chloro-6-(4-morpholinyl)-5-nitro-N-(3-pyridinyl)-4-pyrimidinamine: mp (aq. MeOH)>310° C.; 1H NMR (CDCl3) δ 10.19 (br s, 1H), 8.74 (d, J=2.5 Hz, 1H), 8.45 (dd, J=4.8, 1.4 Hz, 1H), 8.12 (ddd, J=8.3, 2.6, 1.5 Hz, 1H), 7.35 (dd, J=8.4, 4.8 Hz, 1H), 3.81 (m, 4H), 3.61 (m, 4H).

reactant | 4-(2,6-dichloro-5-nitro-4-pyrimidinyl)morpholine | ClC1=NC(=C(C(=N1)N1CCOCC1)[N+](=O)[O-])Cl | C8H8Cl2N4O3
reactant | 3-aminopyridine | 7.2 mmol, 0.68 g | NC=1C=NC=CC1 | C5H6N2
reactant | LiHMDS | 1M, 7.2 mL, 2 eq. | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 2-chloro-6-(4-morpholinyl)-5-nitro-N-(3-pyridinyl)-4-pyrimidinamine | 1.12 g, 52% yield | ClC1=NC(=C(C(=N1)NC=1C=NC=CC1)[N+](=O)[O-])N1CCOCC1 | C13H13ClN6O3
